US07732456B2
(7) Preparation of 4-[(E)-2-(4-methoxyphenyl)vinyl]-1-{4-[2-(1-pyrrolidinyl]-ethoxy}phenyl)-1H-pyridin-2-one
Potassium carbonate (11 mg, 0.08 mmol) and methyl p-toluenesulfonate (6 mg, 0.03 mmol) were added to DMF (2 mL) solution of 4-[(E)-2-4-hydroxyphenyl)vinyl]-1-{4-[2-(1-pyrrolidinyl)ethoxy]phenyl}-1H-pyridin-2-one (11 mg, 0.03 mmol), and stirred for a day and night at 80° C. Ethyl acetate was added to the reaction liquid, followed by washing with water and saturated brine and drying over anhydrous sodium sulfate. Concentrating the reaction liquid under reduced pressure, the residue was purified on silica gel column chromatography (C-300; methanol:chloroform=1:20-1:10) to provide the title compound (6 mg, 53%) as a white solid.

reactant | Potassium carbonate | 0.08 mmol, 11 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl p-toluenesulfonate | 0.03 mmol, 6 mg | C1(=CC=C(C=C1)S(=O)(=O)OC)C | C8H10O3S
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
reactant | 1-{4-[2-(1-pyrrolidinyl)ethoxy]phenyl}-1H-pyridin-2-one | 0.03 mmol, 11 mg | N1(CCCC1)CCOC1=CC=C(C=C1)N1C(C=CC=C1)=O | C17H20N2O2
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[(E)-2-(4-methoxyphenyl)vinyl]-1-{4-[2-(1-pyrrolidinyl]-ethoxy}phenyl)-1H-pyridin-2-one | 6 mg, 53% | COC1=CC=C(C=C1)/C=C/C1=CC(N(C=C1)C1=CC=C(C=C1)OCCN1CCCC1)=O | C26H28N2O3
